US07348354B2
4-Dimethylamino-4-phenyl-cyclohexanone (10.85 g, 50 mmole) and cyanomethanephosphonic acid diethyl ester (10.65 g, 12 mmole) were dissolved in DCM (100 ml). This solution was added dropwise with ice water cooling at a temperature of 5 to 10° C. with vigorous stirring to a solution of 40% aqueous NaOH (50 ml) and stirred for 2 h at RT. Working up was performed by combining the batch with ice (100 g). The organic phase was separated off. The aqueous phase was extracted with DCM (3×40 ml). The combined extracts were washed with saturated NaCl-solution (50 ml), dried over Na2SO4 and then evaporated. (4-Dimethylamino-4-phenylcyclohexylidene)acetonitrile was obtained as a yellow oil in a yield of 95% (11.4 g).

reactant | 4-Dimethylamino-4-phenyl-cyclohexanone | 50 mmole, 10.85 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | cyanomethanephosphonic acid diethyl ester | 12 mmole, 10.65 g | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | NaOH | 50 ml | [OH-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | (4-Dimethylamino-4-phenylcyclohexylidene)acetonitrile | yield of 95% | CN(C1(CCC(CC1)=CC#N)C1=CC=CC=C1)C | C16H20N2
